US07176203B2
d) 4-(Tributylstannyl)pyridine 1-oxide
4-Tributylstannylpyridine (3.00 g, 8.15 mmol) and 3-chloroperoxybenzoic acid (2.81 g, 16.3 mmol) in CHCl3 (60 ml) was stirred at 0° C. for 24 h. The mixture was washed with saturated aqueous NaHCO3 (2×200 ml). The organic layer was dried (Na2SO4), filtered, and evaporated in vacuo. Purification by chromatography (silica gel, 0–10% MeOH/EtOAc) gave 2.00 g (64%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 0.80–1.60 (27H, m), 7.42 (2H, d, J 5.0), 8.35 (2H, d, J 5.0).

reactant | 4-Tributylstannylpyridine | 8.15 mmol, 3.00 g | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
reactant | 3-chloroperoxybenzoic acid | 16.3 mmol, 2.81 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(Tributylstannyl)pyridine 1-oxide | 2.00 g, 64% | C(CCC)[Sn](C1=CC=[N+](C=C1)[O-])(CCCC)CCCC | InChI=1S/C5H4NO.3C4H9.Sn/c7-6-4-2-1-3-5-6;3*1-3-4-2;/h2-5H;3*1,3-4H2,2H3;
